US05808108
2-Benzyloxymethyl-2-methyl-1,3-propanediol
A 2 L 3-neck, round-bottom flask, equipped with a reflux condenser, a thermometer, and magnetic stir bar, was charged with 2-isopropyl-5-benzyloxymethyl-5-methyl-1,3-dioxane (48.5 g, 0.183 mol), IN HCI (330 mL), and methanol (600 mL). The mixture was heated to reflux for 3 h, then neutralized with 1N NaOH (~330 mL). The mixture was extracted with CH2Cl2 (600 mL), and the organic layer was separated. The aqueous layer was extracted with 250 mL of CH2 Cl2. The combined organic layer was washed with brine (300 ML), and dried over MgSO4. After removing MgSO4, the solution was concentrated using a rotary evaporator under reduced pressure. The residual oily mixture was purified by column chromatography. It was applied to a column of Silica gel and eluted with 5:1 and 2:3 Hexanes:EtOAc to give 12.5 g of white crystals after removing solvent and drying in vacuo (33% of theory). m.p. (DSC): 54.5° C.; IR (neat): 3280, 2930, 2860, 2840, 1448, 1403, 1354, 1296, 1200, 1150, 1108, 1050, 1021, 990, 962, 892, 727, 688 cm-1 ; 1H NMR (CDC13, 300 Mhz) δ0.84 (s, 3H), 2.92 (s, 2H), 3.45(s, 2H), 3.57 (d, 2H), 3.69 (d, 2H), 4.51 (s, 2H), 7.32 (m, 5H); 13C NMR (CDC13, 75 MHz) δ17.09, 40,77, 67.71, 73.56, 75.49, 127.47, 127.72, 128.43, 137.87.

reactant | 2-isopropyl-5-benzyloxymethyl-5-methyl-1,3-dioxane | 0.183 mol, 48.5 g | C(C)(C)C1OCC(CO1)(C)COCC1=CC=CC=C1 | C16H24O3
reactant | NaOH | 1N, ~330 mL | [OH-].[Na+]
solvent | methanol | 600 mL | CO | CH4O
product | 2-Benzyloxymethyl-2-methyl-1,3-propanediol | 12.5 g | C(C1=CC=CC=C1)OCC(CO)(CO)C | C12H18O3
